US06875786B2
b) 2-bromo-6-nitroanisole
A mixture of 2-bromo-6-nitrophenol (10.8 g; 0.0495 mol.), methyl iodide (3.4 mL; 0.00545 mol.) and potassium carbonate (8.2 g; 0.0592 mol.) in acetone (250 mL) was stirred and heated under reflux for 24 h.

reactant | 2-bromo-6-nitrophenol | 0.0495 mol, 10.8 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | methyl iodide | 0.00545 mol, 3.4 mL | CI | CH3I
reactant | potassium carbonate | 0.0592 mol, 8.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 2-bromo-6-nitroanisole | BrC1=C(C(=CC=C1)[N+](=O)[O-])OC | C7H6BrNO3
